US07875645B2
(2-Fluoro-5-methyl-phenyl)-acetonitrile was prepared from 2-bromomethyl-1-fluoro-4-methyl-benzene and sodium cyanide in presence of a catalytic amount of 15-crown-5 in acetonitrile at ambient temperature over night in analogy to R. B. Katz et al., Tetrahedron 45, 1801 (1989): light yellow liquid; MS (EI): 149.1 (M+.).

reactant | 2-bromomethyl-1-fluoro-4-methyl-benzene | BrCC1=C(C=CC(=C1)C)F | C8H8BrF
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 15-crown-5 | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | acetonitrile | C(C)#N | C2H3N
product | (2-Fluoro-5-methyl-phenyl)-acetonitrile | FC1=C(C=C(C=C1)C)CC#N | C9H8FN
